US06130187
Preparation of 3-(4-chloro-6-fluoro-2-hydroxymethylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 12)
1.5 g (3.8 mmol) of 3-(4-chloro-6-fluoro-2-formylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil was dissolved in 10 ml of tetrahydrofuran, and 4.5 ml of diisobutylaluminum hydride (0.94M hexane solution) was dropwise added thereto in a nitrogen stream at 5° C. After stirring at room temperature for 1 hour, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 1.4 g (yield: 90.7%) of the desired product as pale yellow crystals. Melting point: 198-199° C.

reactant | 3-(4-chloro-6-fluoro-2-formylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 3.8 mmol, 1.5 g | ClC1=CC(=C(C2=C1C=C(O2)C=O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H7ClF4N2O4
reactant | diisobutylaluminum hydride | 0.94M, 4.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(4-chloro-6-fluoro-2-hydroxymethylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 1.4 g, yield: 90.7% | ClC1=CC(=C(C2=C1C=C(O2)CO)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H9ClF4N2O4
